US04363805
Preparation analogously to Example 70 by the reaction of 3,4-dichlorophenol sodium salt with 3-chloro-1-propanol to give 3-(3,4-dichlorophenoxy)-1-propanol (m.p. 40°-43°; yield about 90%), which is converted quantitatively into 3-(3,4-dichlorophenoxy)-propyl 1-methanesulphonate (m.p. 41°-43°) and is reacted with excess 5-amino-5-desoxy-1.4;3.6-dianhydro-L-iditol 2-nitrate in boiling ethanol. Isolation as hydrochloride. Yield, after recrystallisation from ethanol: 56%.

reactant | 3,4-dichlorophenol sodium salt | [Na].ClC=1C=C(C=CC1Cl)O
reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
product | 3-(3,4-dichlorophenoxy)-1-propanol | yield about 90% | ClC=1C=C(OCCCO)C=CC1Cl | C9H10Cl2O2
